US09102623B2
A11.3) N-Methyl-2-oxo-6-(1,1,2,2-tetrafluoroethyl)-1,2-dihydropyridine-3-carb oxamide
At room temperature, 300 mg (1.19 mmol) of methyl 2-oxo-6-(1,1,2,2-tetrafluoroethyl)-1,2-dihydropyridine-3-carboxylate were stirred in 3.3 ml of a 40% strength aqueous methylamine solution for 14 h. The pH was then adjusted to 2 by addition of 1N hydrochloric acid, and the mixture was extracted with dichloromethane. Drying and concentration of the extract gave 230 mg (77% of theory) of the product.

reactant | methyl 2-oxo-6-(1,1,2,2-tetrafluoroethyl)-1,2-dihydropyridine-3-carboxylate | 1.19 mmol, 300 mg | O=C1NC(=CC=C1C(=O)OC)C(C(F)F)(F)F | C9H7F4NO3
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | 1N | Cl | ClH
product | N-Methyl-2-oxo-6-(1,1,2,2-tetrafluoroethyl)-1,2-dihydropyridine-3-carb oxamide | CNC(=O)C=1C(NC(=CC1)C(C(F)F)(F)F)=O | C9H8F4N2O2
